### PR TITLE
[Merged by Bors] - feat: have `extract_goal` give full context when it detects a contradiction proof

### PR DESCRIPTION
**Pull request by kmill**
If the goal is `False`, `extract_goal` would delete all hypotheses and leave an impossible goal. Now in this case `extract_goal` has the behavior of `extract_goal*`. (Suggested by Bhavik Mehta.)

Also changes the `extract_goal` syntax to
```
"extract_goal" ("*" <|> ident*) ("using" ident)?
```
The "using" clause replaces the autogenerated name for the extracted theorem/def. The `extract_goal` tactic has the same behavior as before, `extract_goal *` extracts the entire local context like before, and `extract_goal a b c ...` removes everything from the local context except for fvars `a`, `b`, `c`, ... and their (and the goal's) dependencies. This last form does not automatically include prop variables that depend on preserved fvars, unlike `extract_goal`, which does. The thought is that including prop variables is useful in the default case, but if you are configuring which variables to take you can always take them manually.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/ExtractGoal.lean [hunk 1]
```diff
@@ -52,3 +52,26 @@ example {z : Int} : ∃ n : Nat, ↑n = z := by
...
+-- Contradiction proof gives full context:
+/--
+info: theorem extracted_1 (h : 1 = 2) : False := sorry
+---
+warning: declaration uses 'sorry'
+-/
+#guard_msgs in
+example (h : 1 = 2) : False := by
+  extract_goal
+  sorry
```
Comment (adomani) [inline test/ExtractGoal.lean:65]:
```suggestion
/--
info: theorem extracted_1 (h : 1 = 2) : False := sorry
-/
#guard_msgs in
example (h : 1 = 2) : False := by
  extract_goal
  cases h
```
To avoid a `sorry`!

File: Mathlib/Tactic/ExtractGoal.lean [hunk 2]
```diff
@@ -116,7 +117,11 @@ elab (name := extractGoal) "extract_goal" full?:&"*"? name?:(colGt ppSpace ident
              else mkAuxName ((← getCurrNamespace) ++ `extracted) 1
   let msg ← withoutModifyingEnv <| withoutModifyingState do
     let mut g ← getMainGoal
-    unless full?.isSome do
+    let mut cleanup := full?.isNone
+    if (← g.getType >>= instantiateMVars).consumeMData.isConstOf ``False then
```
Comment (adomani) [inline Mathlib/Tactic/ExtractGoal.lean:121]: Would there be some difference to using
```lean
if ← Meta.isDefEq (← g.getType') (.const ``False []) then
```
instead?

**Review by adomani — APPROVED** [review]
Looks good to me, thanks!

File: Mathlib/Tactic/ExtractGoal.lean [hunk 3]
```diff
@@ -116,7 +117,11 @@ elab (name := extractGoal) "extract_goal" full?:&"*"? name?:(colGt ppSpace ident
...
+      -- In a contradiction proof, it is not very helpful to clear all hypotheses!
+      cleanup := false
+    if cleanup then
```
Comment (PatrickMassot) [inline Mathlib/Tactic/ExtractGoal.lean:124]: Isn't this a convoluted way of doing
```
if full?.isNone && !((← g.getType >>= instantiateMVars).consumeMData.isConstOf ``False) then
      g ← g.cleanup

Comment (PatrickMassot) [reply Mathlib/Tactic/ExtractGoal.lean:124]: Or even better:
```
unless full?.isSome || (← g.getType >>= instantiateMVars).consumeMData.isConstOf ``False do
      g ← g.cleanup
```
although it would be nice to make sure this short-circuits when `full?.isSome` and there is a trap here if I remember correctly.

Comment (eric-wieser) [reply Mathlib/Tactic/ExtractGoal.lean:124]: I think to avoid the trap you need `... <||> do ...`, and forgetting the `do` springs the trap.

File: test/ExtractGoal.lean (hunk 1 above)
Comment (kmill) [reply test/ExtractGoal.lean:127]: I'd figured that if you're doing `extract_goal` you might not know how to prove it yet :smile: I'll mark this as resolved, but if you'd prefer `cases h` feel free to unresolve.

File: Mathlib/Tactic/ExtractGoal.lean (hunk 2 above)
Comment (kmill) [reply Mathlib/Tactic/ExtractGoal.lean]: I wanted to see `False` in the goal directly, not after unfolding, since that's a strong indicator that this is a contradiction proof. One reason not to unfold is that the goal might include variables that disappear from it after unfolding.

File: Mathlib/Tactic/ExtractGoal.lean (hunk 3 above)
Comment (kmill) [reply Mathlib/Tactic/ExtractGoal.lean]: Maybe it'll make you question my tastes, but, believe it or not, I considered all three of these options and settled on using a `mut` variable. I'd thought that maybe there might be other forms we'd want to match on eventually and this structure is easier to read than an `||` chain.

Anyway, now the convolution is gone so we don't need to worry about it anymore :smile:

Comment (PatrickMassot) [reply Mathlib/Tactic/ExtractGoal.lean]: I don't mind the convoluted way, I mostly wanted to check I wasn't missing a learning opportunity.

Comment (kmill) [reply Mathlib/Tactic/ExtractGoal.lean]: I probably should have just done the `if ... &&` or the `unless ... ||` from the beginning -- the likelihood of needing to match anything else is really low. (Btw, I'd decided that the "`do` trap" was ok here because instantiating mvars and doing `isConstOf` is inexpensive. If it were more expensive, I'd do `... <||> do ...`.)

File: Mathlib/Tactic/ExtractGoal.lean [hunk 4]
```diff
@@ -93,50 +94,75 @@ example : (X : Nat[X]) = X := by
...
+syntax star := "*"
+
+/-- Configuration for `extract_goal` for which variables from the context to include. -/
+syntax config := star <|> (colGt ppSpace ident)*
 
-It tries to produce an output that can be copy-pasted and just work,
+/--
+- `extract_goal` formats the current goal as a stand-alone theorem or definition after
+  cleaning up the local context of irrelevant variables.
+  A variable is *revelant* if (1) it occurs in the target type, (2) there is a relevant variable
```
Comment (b-mehta) [inline Mathlib/Tactic/ExtractGoal.lean:110]:
```suggestion
  A variable is *relevant* if (1) it occurs in the target type, (2) there is a relevant variable
```

File: test/ExtractGoal.lean [hunk 5]
```diff
@@ -52,3 +58,82 @@ example {z : Int} : ∃ n : Nat, ↑n = z := by
...
+info: theorem extracted_1 (n : ℕ) : True := sorry
+---
+warning: declaration uses 'sorry'
+-/
+#guard_msgs in
+example (n : ℕ) : True := by
+  extract_goal *
+  sorry
+
+-- Clears `i` neither `n` nor the goal depends on it.
```
Comment (b-mehta) [inline test/ExtractGoal.lean:97]:
```suggestion
-- Clears `i` since neither `n` nor the goal depend on it.
```

File: Mathlib/Tactic/ExtractGoal.lean [hunk 6]
```diff
@@ -93,50 +94,75 @@ example : (X : Nat[X]) = X := by
...
+  that depends on it, or (3) the type of the variable is a proposition that depends on a
+  relevant variable.
```
Comment (b-mehta) [inline Mathlib/Tactic/ExtractGoal.lean:112]: I'm not entirely sure what (3) means here... Is there a test case that checks for it?

File: test/ExtractGoal.lean (hunk 5 above)
Comment (b-mehta) [reply test/ExtractGoal.lean:97]: Or some equivalent: the current phrasing confused me.

File: Mathlib/Tactic/ExtractGoal.lean (hunk 6 above)
Comment (kmill) [reply Mathlib/Tactic/ExtractGoal.lean:112]: This is documenting the current behavior, since it comes from how the `cleanup` function works. Check out the difference between the first two tests. When you provide variables to `extract_goals` it turns off this third relevancy condition, and so `h₀` is no longer included.

File: test/ExtractGoal.lean (hunk 5 above)
Comment (kmill) [reply test/ExtractGoal.lean]: Thanks, added "since". (The rule I know is that "neither" is always singular in formal writing, so I left "depends".)

File: Mathlib/Tactic/ExtractGoal.lean (hunk 6 above)
Comment (b-mehta) [reply Mathlib/Tactic/ExtractGoal.lean:112]: Ah okay, that makes sense.

File: Mathlib/Lean/Meta/Tactic/CleanupExcept.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright (c) 2023 Kyle Miller. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Kyle Miller
+-/
+import Lean.Meta.Tactic.Cleanup
+
+/-! # Configurable cleanup meta tactic
+
+This module defines `Lean.MVarId.cleanupExcept` as a configurable version of `Lean.MVarId.cleanup`.
```
Comment (kmill) [inline Mathlib/Lean/Meta/Tactic/CleanupExcept.lean:10]: I've submitted a PR to change core so that `cleanup` has the same options as `cleanupExcept`: https://github.com/leanprover/lean4/pull/2919

**Comment by PatrickMassot** [comment]
bors merge
